US06143570
Preparation of 3,6-bis(n-eicosylamino)acridine
2.53 g of anhydrous potassium carbonate are added to a solution of 2.5 g of 3,6-diaminoacridine hydrochloride and 2.95 g of 1-eicosyl bromide in 20 ml of N,N'-dimethylethyleneurea, and the mixture is stirred at 50° C. for 86 hours. The cooled reaction mixture is subsequently poured into water, and the orange-brown suspension is extracted with methylene chloride. The organic phase is washed with water and dried over sodium sulfate. After evaporation, 2N HCl is added to the brown oil. The red precipitate formed is filtered off, washed with water and then dried in a high vacuum. The resultant red-brown crystals are taken up in methylene chloride/methanol (10:1) and chromatographed on silica gel. After evaporation, the residue is taken up in diethyl ether/methanol (10:1) and re-chromatographed on silica gel, giving the title compound as red crystals, absorption spectrum (ethanol): λmax =472 nm; ε=42 200.

reactant | potassium carbonate | 2.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,6-diaminoacridine hydrochloride | 2.5 g | Cl.NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)N
reactant | 1-eicosyl bromide | 2.95 g | C(CCCCCCCCCCCCCCCCCCC)Br | C20H41Br
reactant | water | O | H2O
solvent | N,N'-dimethylethyleneurea | 20 ml | CN1CCN(C1=O)C | C5H10N2O
product | 3,6-bis(n-eicosylamino)acridine | C(CCCCCCCCCCCCCCCCCCC)NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)NCCCCCCCCCCCCCCCCCCCC | C53H91N3
